US05112966
A solution of (3S,4S)-4-(1-(R)-hydroxymethylethyl)-3-(1-(R)-benzyloxycarbonyloxyethyl)-2-azetidinone (6.1 g) in acetone (60 ml) was treated with the Jones reagent, prepared from chromium trioxide (2.78 g), 98% sulfuric acid (4.4 g) and water (8.1 ml), at 10°-20° C. for 1 hour. The reaction mixture was quenched with isopropanol (0.5 ml) at 10°-20° C. for 15 minutes, diluted with ethyl acetate (122 ml) and washed with water (135 ml). The aqueous layer was separated from the organic layer and extracted with ethyl acetate (61 ml). The ethyl acetate extracts and the organic layer were combined together and extracted with 5% sodium bicarbonate (30 ml). The extract was washed with dichloromethane (60 ml) and acidified with 10% hydrochloric acid solution (20 ml) with ice-cooling. The acidic solution was extracted twice with dichloromethane (60 ml). The extracts were washed with brine and dried over anhydrous sodium sulfate. Filtration and concentration of the filtrate in vacuo gave (3S,4S)-4-(1-(R)-carboxyethyl)-3-(1-(R)-benzyloxycarbonyloxyethyl)-2-azetidinone.

reactant | (3S,4S)-4-(1-(R)-hydroxymethylethyl)-3-(1-(R)-benzyloxycarbonyloxyethyl)-2-azetidinone | 6.1 g | OC[C@H](C)[C@H]1[C@H](C(N1)=O)[C@@H](C)OC(=O)OCC1=CC=CC=C1 | C16H21NO5
reactant | Jones reagent | CC(=O)C.OS(=O)(=O)O.O=[Cr](=O)=O
reactant | sulfuric acid | 4.4 g | S(O)(O)(=O)=O | H2O4S
reactant | water | 8.1 ml | O | H2O
solvent | acetone | 60 ml | CC(=O)C | C3H6O
catalyst | chromium trioxide | 2.78 g | [O-2].[O-2].[O-2].[Cr+6]
product | (3S,4S)-4-(1-(R)-carboxyethyl)-3-(1-(R)-benzyloxycarbonyloxyethyl)-2-azetidinone | C(=O)(O)[C@H](C)[C@@H]1[C@H](C(N1)=O)[C@@H](C)OC(=O)OCC1=CC=CC=C1 | C16H19NO6
